US07705034B2
3-Hydroxy-4-methyl-2-[(3-methyl-benzo[b]thiophen-2-yl)-phenyl-methyl]-4-phenyl-cyclobut-2-enone
Using general procedure D, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with (3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol to give the title compound as a colorless solid. MS: 409.5 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | (3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol | CC=1C2=C(SC1C(O)C1=CC=CC=C1)C=CC=C2 | C16H14OS
product | 3-Hydroxy-4-methyl-2-[(3-methyl-benzo[b]thiophen-2-yl)-phenyl-methyl]-4-phenyl-cyclobut-2-enone | OC1=C(C(C1(C1=CC=CC=C1)C)=O)C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C | C27H22O2S
